US05179090
4,9-Dihydro-3-methyl-4-[[7-methyl-3,7-diazabicyclo[3.3.0]oct-3-yl]carbonyl]-10H-thieno[3,4-b][1,5]benzodiazepin-10-one
Prepared analogously to Example 1 from 4-(chlorocarbonyl)-4,9-dihydro-3-methyl-10H-thieno[3,4-b][1,5]benzodiazepin-10-one and 3-methyl-3,7-diazabicyclo-[3.3.0]octane in a yield of 13% of theory. Colourless crystals of m.p. 220°-222° C. (ethanol).

reactant | 4-(chlorocarbonyl)-4,9-dihydro-3-methyl-10H-thieno[3,4-b][1,5]benzodiazepin-10-one | ClC(=O)N1C=2C(C(NC3=C1C=CC=C3)=O)=CSC2C | C13H9ClN2O2S
reactant | 3-methyl-3,7-diazabicyclo-[3.3.0]octane | CN1CC2CNCC2C1 | C7H14N2
solvent | ethanol | C(C)O | C2H6O
product | 4,9-Dihydro-3-methyl-4-[[7-methyl-3,7-diazabicyclo[3.3.0]oct-3-yl]carbonyl]-10H-thieno[3,4-b][1,5]benzodiazepin-10-one | yield of 13% | CC=1SC=C2C1N(C1=C(NC2=O)C=CC=C1)C(=O)N1CC2CN(CC2C1)C | C20H22N4O2S
